US04855497
Synthesis of 3-chloro-2', 6'-dimethylpropionanilide
A mixture of 2,6-dimethylaniline (60.5 g) and potassium carbonate (45 g) is dissolved in a 3:1 mixture of ethyl acetate and water (1,200 ml). To the ice-cooled mixture, 100 ml of an ethyl acetate solution of 3-chloropropionyl chloride (52.5 ml) is added dropwise under agitation. The reaction mixture is stirred for 3 hours at room temperature and the aqueous layer is subsequently separated. The organic layer is washed with a saturated aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride, and subsequently dried over Glauber's salt. Upon distilling off the solvent under vacuum, a colorless powder results. Recrystallization from ethanol provides a colorless needle in an amount of 96.5 g (yield: 90.8%). m.p. 131° C.

reactant | 2,6-dimethylaniline | 60.5 g | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | potassium carbonate | 45 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloropropionyl chloride | 52.5 ml | ClCCC(=O)Cl | C3H4Cl2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 1,200 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 3-chloro-2', 6'-dimethylpropionanilide | yield: 90.8% | ClCCC(=O)NC1=C(C=CC=C1C)C | C11H14ClNO
